US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and phenylacetyl chloride, there is obtained ethyl N-(phenylacetyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e:M+ 384 (2), 355 (1), 293 (100), 265 (15), 194 (11), 179 (26), 167 (67), 91 (20);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | ethyl N-(phenylacetyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1(=CC=CC=C1)CC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C25H24N2O2
